US06921759B2
Step 3: Preparation of methyl 8-(benzoyloxy)-5-cyano-1,6-naphthyridine-7-carboxylate
To a solution of methyl 8-(benzoyloxy)-5-iodo-1,6-naphthyridine-7-carboxylate (750 mg, 1.727 mmol) in anhydrous DMF (10 ml) was added dicyanozinc (142 mg, 1.21 mmol) and tetrakis(triphenylphospine)palladium(0) (299 mg, 0.26 mmol) and the solution was stirred at 85° C. overnight. The reaction was quenched with water and extracted with chloroform three times. The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography (17-55% EtOAc/Hexanes gradient elution) to provide a white solid.

reactant | methyl 8-(benzoyloxy)-5-iodo-1,6-naphthyridine-7-carboxylate | 1.727 mmol, 750 mg | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=C2C=CC=NC12)I)C(=O)OC | C17H11IN2O4
reactant | dicyanozinc | 1.21 mmol, 142 mg | C(#N)[Zn]C#N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 8-(benzoyloxy)-5-cyano-1,6-naphthyridine-7-carboxylate | C(C1=CC=CC=C1)(=O)OC=1C(=NC(=C2C=CC=NC12)C#N)C(=O)OC | C18H11N3O4
